US07622583B2
4-Chloro-N-(5-chloro-2-(5-chloro-2-oxo-1,2,3,4-tetrahydroquinazolin-4-yl)pyridine-3-yl)-3-(trifluoromethyl)benzenesulfonamide
N-(2-(2-Amino-6-chlorobenzoyl)-5-chloro-pyridin-3-yl)-4-chloro-3-(trifluoromethyl) benzenesulfonamide (26 mg, 0.05 mmol) in THF (2 mL) was treated with TMS-isocyanate (100 mg) and AcOH (0.5 mL) and then stirred at 75° C. for 12 h. To the mixture was added MeOH (0.5 mL), followed by NaOH (5 N, 1 mL), and the resultant mixture stirred at 75° C. for another 2 h. To the mixture was added AcOH (0.5 mL), and the mixture was purified through HPLC and dried (lyophilizer) to afford the title compound: 1H NMR (400 MHz, CDCl3) δ 8.82 (s, 2H), 8.34 (d, 1 H), 8.14 (d, 1 H), 7.90 (dd, 1 H), 7.66 (d, 1 H), 7.46 (s, 1 H), 7.16 (t, 1 H), 6.90 (d, 2H), 6.81 (d, 1 H), 6.14 (d, 1 H); MS (ES) (M+H)+ expected 550.9, found 550.9.

reactant | N-(2-(2-Amino-6-chlorobenzoyl)-5-chloro-pyridin-3-yl)-4-chloro-3-(trifluoromethyl) benzenesulfonamide | 0.05 mmol, 26 mg | NC1=C(C(=O)C2=NC=C(C=C2NS(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)Cl)C(=CC=C1)Cl | C19H11Cl3F3N3O3S
reactant | TMS-isocyanate | 100 mg | [Si](C)(C)(C)N=C=O | C4H9NOSi
reactant | NaOH | 5 N, 1 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | AcOH | 0.5 mL | CC(=O)O | C2H4O2
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | AcOH | 0.5 mL | CC(=O)O | C2H4O2
product | 4-Chloro-N-(5-chloro-2-(5-chloro-2-oxo-1,2,3,4-tetrahydroquinazolin-4-yl)pyridine-3-yl)-3-(trifluoromethyl)benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1NC(NC2=CC=CC(=C12)Cl)=O)C(F)(F)F | C20H12Cl3F3N4O3S
